US09108936B2
To a solution of N-[(4-chlorophenyl)-methyl]-2-methoxy-6-methyl-4-morpholin-4-yl-benzamide (synthesized according to the methods described in sections a) to f) of example 10) (0.25 g, 0.67 mmol) in dichloromethane (10 ml) is added neat boron tribromide (0.095 ml, 1.0 mmol) at −78° C. The temperature is slowly raised to RT over a period of 30 min and stirred for 1 h at RT. The reaction mixture is poured onto cold water and extracted with dichloromethane (3×30 ml). The combined organic layers are washed with brine (30 ml), dried over sodium sulfate and evaporated to dryness. The crude material is purified by column chromatography (silica gel, 40% ethyl acetate/hexane) affording N-[(4-chlorophenyl)-methyl]-2-hydroxy-6-methyl-4-morpholin-4-yl-benzamide (0.11 g, 0.30 mmol, 45%).

reactant | N-[(4-chlorophenyl)-methyl]-2-methoxy-6-methyl-4-morpholin-4-yl-benzamide | ClC1=CC=C(C=C1)CNC(C1=C(C=C(C=C1C)N1CCOCC1)OC)=O | C20H23ClN2O3
reactant | boron tribromide | 1.0 mmol, 0.095 ml | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[(4-chlorophenyl)-methyl]-2-hydroxy-6-methyl-4-morpholin-4-yl-benzamide | 0.30 mmol, 0.11 g, 45% | ClC1=CC=C(C=C1)CNC(C1=C(C=C(C=C1C)N1CCOCC1)O)=O | C19H21ClN2O3
